US05530138
1- [N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-formylamino]-naphthalene
The procedures described in Example 2 were repeated except that N-formyl-1-naphthylamine (1.83 g, 10.7 mmol ) and 5-chloromethyl-1-azabicyclo[3.3.0]octane (hydrochloride, 2.30 g, 11.7 mmol) were employed. In this case, the desired compound was obtained as a colorless liquid (3.02 g, 95.9%

reactant | N-formyl-1-naphthylamine | 10.7 mmol, 1.83 g | C(=O)NC1=CC=CC2=CC=CC=C12 | C11H9NO
reactant | 5-chloromethyl-1-azabicyclo[3.3.0]octane | 11.7 mmol, 2.30 g | ClCC12CCCN2CCC1 | C8H14ClN
product | 1- [N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-formylamino]-naphthalene | N12CCCC2(CCC1)CN(C=O)C1=CC=CC2=CC=CC=C12 | C19H22N2O
